US05686611
9-[(Diethylphosphonomethoxy)methoxymethyl]adenine (9)
To a suspension of 60% sodium hydride in mineral oil (1.4 g, 34.5 mmol) in DMF (100 mL) was added adenine (4.7 g, 34.5 mmol) and the mixture was stirred at 80° C. for 1 hr. To the resulting yellow solution was added dropwise a solution of chloromethoxy(diethoxyphosphinomethoxy)methane [(prepared from diethylphosphate (4.4 mL, 34.5 mmol) and bis(chloromethoxy)methane (25 g, 172 mmol)] in DMF (20 mL) under nitrogen. After stirring at 25° C. for 15 hr, volatiles were removed in vacuo, and the resulting oily residue was purified by silica gel column chromatography using CH2Cl2 /10% MeOH as eluent to obtain the title compound as a colorless oil: yield 6.0 g (50%).

reactant | sodium hydride | [H-].[Na+]
reactant | adenine | 34.5 mmol, 4.7 g | N1=CN=C2N=CNC2=C1N | C5H5N5
reactant | chloromethoxy(diethoxyphosphinomethoxy)methane | ClCOCOCP(OCC)OCC | C7H16ClO4P
reactant | diethylphosphate | 34.5 mmol, 4.4 mL | C(C)OP(=O)(OCC)[O-]
reactant | bis(chloromethoxy)methane | 172 mmol, 25 g | ClCOCOCCl | C3H6Cl2O2
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 9-[(Diethylphosphonomethoxy)methoxymethyl]adenine | C(C)OP(=O)(OCC)COCOCN1C2=NC=NC(=C2N=C1)N | C12H20N5O5P
